US08445684B2
In a 100 mL round-bottom flask, PtO2 (77 mg, 0.34 mmol, 0.05 equiv.) was added under N2 at room temperature to a solution of 3-(benzyloxy)-5-[(1S,2S)-2-(2-methoxyvinyl)cyclopropyl]pyridine (1.90 g, 6.75 mmol) in CH2Cl2 (18 mL). A H2 balloon was attached, and the atmosphere was exchanged three times. The reaction mixture was stirred at room temperature for 6 h, after which time TLC analysis indicated that the starting material had disappeared completely. The catalyst was filtered off and washed with CH2Cl2 (2×5 mL). The combined filtrates were concentrated in vacuo to yield crude 3-(benzyloxy)-5-[(1S,2R)-2-(2-methoxyethyl)cyclopropyl]pyridine (1.90 g) as a yellowish oil. LC-MS (ESI) m/z 284 (M+H+).

reactant | 3-(benzyloxy)-5-[(1S,2S)-2-(2-methoxyvinyl)cyclopropyl]pyridine | 6.75 mmol, 1.90 g | C(C1=CC=CC=C1)OC=1C=NC=C(C1)[C@@H]1[C@H](C1)C=COC | C18H19NO2
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
catalyst | PtO2 | 0.34 mmol, 77 mg, 0.05 equiv. | O=[Pt]=O
product | 3-(benzyloxy)-5-[(1S,2R)-2-(2-methoxyethyl)cyclopropyl]pyridine | 1.90 g | C(C1=CC=CC=C1)OC=1C=NC=C(C1)[C@@H]1[C@H](C1)CCOC | C18H21NO2
